US08193199B2
5-chloro-3-(3-fluorophenyl)-2-methylquinoxaline (0.3907 g, 1.433 mmol) and 1,3-dibromo-5,5-dimethylhydantoin (0.2458 g, 0.8596 mmol) were suspended in carbon tetrachloride (14.33 mL, 1.433 mmol). To the mixture was added benzoyl peroxide (0.04627 g, 0.1433 mmol) and the mixture was heated at reflux. After 24 h, the mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 9% gradient of EtOAc in hexane over 1.3 min, then 9% isocratic of EtOAc for 7.6 min, then 9 to 100% gradient of EtOAc in hexane over 12.7 min, then 100% isocratic of EtOAc for 10 min as eluent to give 2-(bromomethyl)-5-chloro-3-(3-fluorophenyl)quinoxaline as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.14 (1H, dd, J=8.4, 1.2 Hz), 8.12 (1H, dd, J=7.6, 1.4 Hz), 7.92 (1H, dd, J=8.4, 7.8 Hz), 7.64-7.70 (3H, m), 7.43-7.50 (1H, m), 4.91 (2H, s); LC-MS (ESI) m/z 351.0 and 352.9 [M+H]+.

reactant | 5-chloro-3-(3-fluorophenyl)-2-methylquinoxaline | 1.433 mmol, 0.3907 g | ClC1=C2N=C(C(=NC2=CC=C1)C)C1=CC(=CC=C1)F | C15H10ClFN2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.8596 mmol, 0.2458 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | carbon tetrachloride | 1.433 mmol, 14.33 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | benzoyl peroxide | 0.1433 mmol, 0.04627 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(bromomethyl)-5-chloro-3-(3-fluorophenyl)quinoxaline | BrCC1=NC2=CC=CC(=C2N=C1C1=CC(=CC=C1)F)Cl | C15H9BrClFN2
